US04851526
2-[(4-Pentylpiperazin-1-yl)methyl]cyclopropanemethanol
To 100 mL of tetrahydrofuran is added 24.0 g (0.1 mol) of 2-[(4-pentylpiperazin-1-yl)carbonyl]cyclopropanecarboxylic acid and 13.6 g (0.4 mol) of lithium aluminum hydride. Reflux the reaction and monitor by thin-layer chromatography. Upon completion add 14 mL of H2O, 14 mL of 15% aqueous NaOH, and 42 mL of H2O. Remove the precipitate by suction filtration through celite and remove the solvent in vacuo to obtain the title compound.

reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | 2-[(4-pentylpiperazin-1-yl)carbonyl]cyclopropanecarboxylic acid | 0.1 mol, 24.0 g | C(CCCC)N1CCN(CC1)C(=O)C1C(C1)C(=O)O | C14H24N2O3
reactant | lithium aluminum hydride | 0.4 mol, 13.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 14 mL | [OH-].[Na+]
solvent | H2O | 42 mL | O | H2O
solvent | H2O | 14 mL | O | H2O
product | 2-[(4-Pentylpiperazin-1-yl)methyl]cyclopropanemethanol | C(CCCC)N1CCN(CC1)CC1C(C1)CO | C14H28N2O
